US09023846B2
STEP C: 5-tert-Butyl-4-cyano-2-methyl-2H-pyrazole-3-carboxylic acid
Using the procedure for Example A, Step B above, the title compound was prepared from 5-tert-butyl-4-cyano-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (prepared as described in the previous step, 610 mg, 2.59 mmol) and 1.0 N aqueous NaOH (4.00 mL, 4.00 mmol) in MeOH (10 mL). The title compound was obtained as a white solid. 1H-NMR (400 MHz, CDCl3) δ: 4.17 (s, 3H), 1.45 (s, 9H).

reactant | 5-tert-butyl-4-cyano-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1C#N)C(C)(C)C)C | C12H17N3O2
reactant | NaOH | 4.00 mmol, 1.0 N, 4.00 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-tert-Butyl-4-cyano-2-methyl-2H-pyrazole-3-carboxylic acid | C(C)(C)(C)C=1C(=C(N(N1)C)C(=O)O)C#N | C10H13N3O2
